* QSPICE_on_MWJ\Article3\Sim1\VRM_PSRR_LineReg.qsch
Rload VOUT 0 100
Vac N07 N01 AC 1
Vref N03 0 DC 0.5
Vin N01 0 DC 10
M_PMOS VOUT N02 VIN VIN PFET PMOS
Cout N05 N06 22µ
Rfb VOUT FB 90K
Rg FB 0 10K
EA N08 0 FB REF 3K
Vsine VIN N07 SIN 0 0.5 1
Eline N04 N03 VIN N03 {line}
Rbw2 N04 REF 1Meg
Cbw2 REF 0 10n
R2 VOUT N05 10m
L2 N06 0 1n
Rbw N08 N09 1Meg
Cbw N09 0 22p
Ebuf N02 0 N09 0 1
.model PFET PMOS Kp=100 eta=10m VT0 = -1
.step param line list 0 0.5m
*AC_begin
*.ac dec 20 1 100Meg
*.plot AC 1/V(VOUT)
*AC_end
*TRAN_begin
.tran 10
.plot tran V(VOUT)
*TRAN_end
.lib PMOS.txt
.end
