* Buck_SEPIA.qsch
B1 IN 0 V=vin*min((time/tin),1)
B2 REF 0 V=ref*table(V(IN)-uvlo,0,0,1,1)
R1 OUT FB rfb
R2 FB 0 rg
R3 COMP N01 rcomp
C1 N01 0 ccomp
Ã1 IN 0 COMP FB SS ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ MultGmAmp Gm=gm VoutMax=vin VoutMin=0
¥2 IN 0 N03 N04 SET RESET ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ SR-FLOP
.model S1•SW SW Ron=1m Roff=100meg Vt=2.5 Vh=100m
S1 IN N02 ON 0 S1•SW
.model D1•X D Ron=1m epsilon=1
D1 N02 IN D1•X
.model S2•SW SW Ron=1m Roff=100M Vt=2.5 Vh=100m
S2 N02 0 OFF 0 S2•SW
.model D2•X D Ron=1m epsilon=1
D2 0 N02 D2•X
L1 N06 OUT L
C2 N05 0 Co
Rdcr N06 N02 Rdcr
.model D3•Z D Ron=1000k Rzen=1 Vrev=ref epsilon=1 revepsilon=10m
D3 0 SS D3•Z
G1 0 SS REF 0 100µ
C3 SS 0 css
RCOT IN N07 rcot
C4 VCOT 0 ccot
Vinsns N07 0 0
B5 0 VCOT I=I(Vinsns)*buf(V(ON)/vin)
B3 XEN 0 V=5*inv(time>ten)
.model S3•SW SW Ron=0.1 Roff=100meg Vt=2.5 Vh=100m ttol=0.1n
S3 VCOT 0 RESET 0 S3•SW
B4 VtCOT 0 V=Ko*vout
E4 Ics N09 N02 N06 g_cs
V2 N09 0 vos
¥3 IN 0 SET ¥ COMP Ics ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ HMITT Ttol=1n
¥1 IN 0 N08 ¥ VCOT VtCOT ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ HMITT Ttol=1n
¥5 IN 0 COT ¥ ¥ N08 ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ monostable Ton=5n
¥6 IN 0 ON ¥ N03 ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ OR Td=5n Td2=-5n Ttol=0.1n
¥7 IN 0 OFF ¥ N04 ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ OR Td=5n Td2=-5n Ttol=0.1n
¥8 IN 0 RESET ¥ XEN COT ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ OR
R4 OUT 0 rl
G2 0 OUT N10 0 {Istep}
Ø´X1 «OUT´d ON´d» «N10´d o1´d o2´d» «»  SEPIA_v202 float Tstep={Tstep} float Tready={Tready} float Istep={Istep} char* Opt=pvl_sepia_log:t1_sepia_tran:a1_sepia_ac:x
Resr N11 N05 1m
L2 OUT N11 0.2n
I1 0 OUT AC Iac
; Supply Voltage
.param vin=5
.param tin=10µ
 
; Reference Voltage
.param ref=1
.param uvlo=1.5
.param css=50n 
 
; Target Output
.param vout=3.3
; Feedback Resistors
.param rg=10K
.param rfb=(vout/ref-1)*rg
 
; Error Amplifier
.param gm={1m  /4}
.param rcomp=20K
.param ccomp={1n  /4}
.param vos=2
.param g_cs={100m/Rdcr}
.param L=0.5µ
.param Co=220µ
; COT Constant-ON Timer
.param freq=2Meg
.param ccot=10p
.param Ko=0.5
.param rcot={1/Ko/ccot/freq}
.param rl=1Meg
* PyQSPICE TRAN begin
.param ten=20µ
.param Rdcr=30m
.param Iac = 0 
.param Istep = -1
.param Tready = 1m
.param Tstep = 1.1m
.tran 10.0m
.plot tran V(out) V(o2) 
* PyQSPICE TRAN end
* PyQSPICE AC begin
*.param ten= 999
*.param Rdcr=100Meg
*.param Iac = 1
*.param Istep = 0
*.param Tready = 998
*.param Tstep = 999 
*.ac dec 49 10 10Meg
**.ac lin {1024*1024} 10 10Meg 
*.plot AC V(out)
* PyQSPICE AC end
.end
