* VRM_Zout.qsch
Rload N01 0 100
Vref REF 0 DC 0.5
Vin VIN 0 DC 10
M_PMOS VOUT N03 VIN VIN PFET PMOS
Cout N04 N07 22µ
Rfb VOUT N02 90K
Rg N02 0 10K
Copen FB 0 {Copen}
L1 FB N02 {Lopen}
EA N05 0 FB REF 3K
R2 VOUT N04 10m
Rbw N05 N06 1Meg
Cbw N06 0 22p
Ebuf N03 0 N06 0 1
I1 0 N01 AC 1
V1 VOUT N01 DC 0
I2 0 N01 sine 10m 10m {f}
L2 N07 0 1n
.model PFET PMOS Kp=100 eta=10m VT0 = -1
.param Lopen={if(x, 1f, 1K)}
.param Copen={if(x, 1f, 1K)}
.step param x list 1 0
*AC_begin
*.ac dec 20 1 100Meg
*.plot AC V(VOUT)/I(V1)
*.plot V(VOUT)
*.plot I(V1) 
*.meas Zout_dB 20*log10(abs(V(VOUT)/I(V1))) at 50K
*AC_end
*TRAN_begin
.param f 50K
.tran {10/f}
.plot tran V(VOUT)
.meas Vpk_max max V(VOUT) from {9/f}
.meas Vpk_min min V(VOUT) from {9/f}
*TRAN_end
.lib PMOS.txt
.end
