* ZoModel.qsch
V1 N01 0 5
R1 N01 N04 10m
Cout OUT N02 1µ
Rload OUT 0 0.5
Resr N02 N03 1m
Lesl N03 0 1n
L1 N04 OUT 100n
Iac 0 OUT AC Iac
G2 0 OUT N05 0 {Istep}
Ø´X2 «OUT´d N06´d» «N05´d» «»  STEP_v100 float Tstep={Tstep} float Tready={Tready} float Istep={Istep}
V2 N06 0 PULSE 0 5 Tstep 1n 1n 2.5n 5n
* PyQSPICE TRAN begin
*.param Istep = -1
*.param Tstep = 1m
*.param Tready = 0.5m 
*.param Iac = 0 
*.tran 10m
*.plot tran V(out)
* PyQSPICE TRAN end
* PyQSPICE AC begin
.param Tstep = 999
.param Tready = 998
.param Istep = 0
.param Iac = 1
.ac dec 25 10 100Meg
.plot ac V(out)
* PyQSPICE AC end
*.end
