* Zo_SEPIA1.qsch
Cout OUT 0 100µ
L1 N01 OUT 50n
G1 0 OUT N02 0 Istep
V2 N03 0 PULSE 0 5 Tstep 0.1n 0.1n 1n 2n
Ø´X1 «OUT´d N03´d» «N02´d o0´d o1´d» «»  SEPIA_v202 float Tstep={Tstep} float Tready={Tready} float Istep={Istep} char* Opt=pvl_sepia_log:t1_sepia_tran:a1_sepia_ac:x
Iac 0 OUT AC Iac
V1 N04 0 DC 5
R1 OUT 0 0.124
Rdcr N01 N04 1µ
* PyQSPICE TRAN begin
.param Iac = 0
.param Istep = -2
.param Tstep =  1mm
.param Tready = 0.9m 
.tran 2m
.plot tran V(out) V(o1)
.plot tran V(o0) 
* PyQSPICE TRAN end
* PyQSPICE AC begin
*.param Iac = 1
*.param Istep = 0
*.param Tstep =  999
*.param Tready = 998
*.ac dec 100 10 10Meg
*.plot ac V(out)
* PyQSPICE AC end
.end
